US06965048B2
1.55 g (7.00 mmol) of trans-4-(2-methylamino-ethyl)-cyclohexanecarboxylic acid·HCl were mixed with 18.4 mL (12.56 mmol, 1.8 eq) of hexamethyldisilazane and heated under reflux to 145° C. for 2.5 h. The solution was evaporated, the residue was suspended in THF and treated with 1.07 g (7.70 mmol, 1.1 eq) of 4-chlorophenylchloroformate at 0° C. and the solution was stirred at RT overnight. 10 mL of water was added at RT followed by 10 mL of 1M NaOH. Stirring was continued for 1 h at RT. The organic solvent was evaporated and the residue partitioned between n-hexane (×3)/H2O. The water phase was acidified with 1M HCl and extracted with EtOAc (3×). The organic phase was dried over Na2SO4 and evaporated to yield 1.92 g (81%) of trans-4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid, MS: 338 (M−H−, 1Cl).

reactant | trans-4-(2-methylamino-ethyl)-cyclohexanecarboxylic acid·HCl | 7.00 mmol, 1.55 g | CNCC[C@@H]1CC[C@H](CC1)C(=O)O.Cl
reactant | hexamethyldisilazane | 12.56 mmol, 18.4 mL, 1.8 eq | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-chlorophenylchloroformate | 7.70 mmol, 1.07 g, 1.1 eq | C1=CC(=CC=C1OC(=O)Cl)Cl | C7H4Cl2O2
reactant | NaOH | 1M, 10 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | trans-4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid | 1.92 g, 81% | ClC1=CC=C(OC(=O)N(CC[C@@H]2CC[C@H](CC2)C(=O)O)C)C=C1 | C17H22ClNO4
